reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:15].[C:2](\[C:3]([H:11])([H:12])[H:13])(=[C:4](/[C:5](=[O:6])[H:16])[H:14])[H:10],91.1861810749687
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:4](=[N+:5]=[C:6]([H:13])[H:15])[H:12].[C:1]([C:2]([O:3][H:14])([H:10])[H:11])([H:7])([H:8])[H:9],88.1039837926343
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C@@:4]([N:6]([H:14])[H:15])([H:10])[O:5]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],56.61153106809083
[C:1]([C:2]([O:3][C:4]([C:6](=[C:5])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],11.91932646869612
[C:1]([C-:2]([N+:4]([C:3]([H:10])([H:11])[H:12])([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9],53.225407387901384
[C:1]([O+:3]=[C-:2][C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[O:3])[C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7],48.175496131576395
[C:1]([O:2][C:3]([C:4]([N:5]=[O:6])=[C:7]([H:14])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:15]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],60.937119394809
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]1([H:8])[C:2]([H:9])([H:10])[C@@:3]1([C:5]#[N:6])[H:11].[O:4]([H:7])[H:12],86.09378121325199
[O:1]([O:4][C:3](=[C:2]([H:6])[H:7])[H:8])[H:5]>>[O:1]([C:2]([C:3](=[O:4])[H:8])([H:6])[H:7])[H:5],55.55385161752362
[C:1]1([H:7])([H:8])[N:2]([H:10])[C:3](=[N:4]/[H:11])/[C:5]1=[N:6]/[H:9]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],79.8064139076106
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[C:4]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:10][H:16],80.9324012699744
[O+:1](=[C-:2][H:5])[C:3]#[N:4]>>[O:1]=[C:2]([C:3]#[N:4])[H:5],26.242560846546084
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:7])[H:9].[c:3]1(=[O:4])[c:5]([H:8])[c:6]1[H:10],79.7296325582794
[C:1](#[C:2][C:3]([C:4]([N+:6]#[C-:5])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],39.00755662424069
[O:1]([C:2]([C:3]1=[C:6]([H:14])[O:7][N:5]([H:13])[C:4]1([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],41.69295375886091
[N:1](=[C:2](/[O:5]/[C:4](=[N:3]/[H:8])[H:9])[H:7])\[H:6]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],38.4051470651863
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]#[N:5])([H:12])[H:13])=[C:6]=[C:7]([H:11])[H:14])([H:8])([H:9])[H:10],80.8077093546762
[C:1]([C:2]#[C:3][C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]=[C:3]([C:4](=[O:5])[H:9])[H:7])([H:6])[H:8],87.2645204789689
[O:1]([C:2]([C:3](/[C:4]([O:5][H:15])=[C:6](/[O:7][H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],54.8003407911548
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:8])([H:9])[H:10].[H:11][H:12],82.753492518379
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C@:3]([O:4][H:13])([H:12])[C:5][N:6]1[H:7],93.9876845508573
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]=[C:6]1[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],43.74787068398758
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5][O:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],27.774192575210215
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[N:2]([H:11])[C@:3]12[N-:4][N+:5]([H:8])([H:12])[C:6]([H:13])=[C:7]2[H:14],119.703846713468
[N:1]([C@:2]1([H:10])[C@:3]([N:4]([H:12])[H:13])([H:11])[C:5]1=[N:6][H:9])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],73.77089994939769
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:6](=[O:7])[N:5]([H:15])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10].[H:12][H:16],83.049089468688
